US07842707B2
1,4-Dicarboxybicyclo[2.2.2]octane
A stirred solution of 1,4-dicarbomethoxybicyclo[2.2.2]octane (31.7 g, 0.14 mole) in tetrahydrofuran (200 mL) and isopropanol (70 mL) was treated with a solution of lithium hydroxide hydrate (17.7 g, 0.42 mole) in water (200 mL), and the mixture was heated to 6°-70° C. for 2.5 h with stirring. The organic solvents were removed in vacuo, and the alkaline aqueous solution was filtered, then the filtrate was cooled on an ice bath and acidified with concentrated hydrochloric acid (40 mL). The solid was filtered, rinsed with cold water, and partially air dried overnight, then further dried under vacuum, triturated from acetonitrile, and redried in vacuo to afford 27.19 g (98%) of subject material as a white solid. No MS could be obtained. 1H NMR (d6-DMSO) δ 12.09 (br s, 2H), 1.66 (s, 12H).

reactant | 1,4-dicarbomethoxybicyclo[2.2.2]octane | 0.14 mole, 31.7 g | C(=O)(OC)C12CCC(CC1)(CC2)C(=O)OC | C12H18O4
reactant | lithium hydroxide hydrate | 0.42 mole, 17.7 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | isopropanol | 70 mL | C(C)(C)O | C3H8O
solvent | water | 200 mL | O | H2O
product | 1,4-Dicarboxybicyclo[2.2.2]octane | 27.19 g, 98% | C(=O)(O)C12CCC(CC1)(CC2)C(=O)O | C10H14O4
